US08067448B2
2-Chloro-4-((1R,2S)-2-hydroxy-1-(5-phenyloxazol-2-yl)propylamino)-3-methylbenzonitrile
A 100 mL round bottomed flask was charged with phosphorous oxychloride (0.5 mL, 5.24 mmol) and benzene (20 mL). (2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)-N-(2-oxo-2-phenylethyl)butanamide (1.14 g, 2.28 mmol) was then added to the mixture which was then placed under reflux for 4 h. The mixture was then concentrated en vacuo, then partitioned between EtOAc (40 mL) and a saturated solution of sodium bicarbonate (30 mL). The organic layer was washed with water (20 mL), dried (Na2SO4). Purification by flash column chromatography [hexanes/Et2O (3:2) as eluent] afforded the title compound as a white solid (30 mg, 4% yield). 1H NMR (500 MHz, CDCl3, δ in ppm) 7.59 (d, J=8 Hz, 2H), 7.32-7.42 (m, 4H), 7.28 (s, 1H), 6.58 (d, J=8 Hz, 1H), 5.17 (d, J=7 Hz, 1H), 4.93-4.95 (m, 1H), 4.66-4.75 (m, 1H), 2.40 (s, 3H) and 1.63 (d, J=6 Hz, 3H).

reactant | phosphorous oxychloride | 5.24 mmol, 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)-N-(2-oxo-2-phenylethyl)butanamide | 2.28 mmol, 1.14 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NCC(C1=CC=CC=C1)=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C26H34ClN3O3Si
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 2-Chloro-4-((1R,2S)-2-hydroxy-1-(5-phenyloxazol-2-yl)propylamino)-3-methylbenzonitrile | 30 mg, 4% yield | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=CN1)C1=CC=CC=C1 | C20H18ClN3O2
